US07816387B2
To a solution of 3-amino-5-nitrobenzoic acid 10.3 g (56.6 mmol) in methanol (100 mL) was added thionyl chloride 6.5 mL (89 mmol) dropwise under ice-cooing, and the mixture was stirred at 70° C. for 4 hours. The solvent was evaporated and thereto was added water and the mixture was extracted three times with ethyl acetate (100 mL). The organic layer was washed with an aqueous saturated sodium bicarbonate solution and dried on magnesium sulfate, filtered and concentrated to give 11.0 g (56.1 mmol) of methyl 3-amino-5-nitrobenzoate as a brown solid (yield: 99%).

reactant | 3-amino-5-nitrobenzoic acid | 56.6 mmol, 10.3 g | NC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H6N2O4
reactant | thionyl chloride | 89 mmol, 6.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 100 mL | CO | CH4O
product | methyl 3-amino-5-nitrobenzoate | 56.1 mmol, 11.0 g, yield: 99% | NC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C8H8N2O4
